US07943748B2
(7) Synthesis of (2S,3R,4R,5S,6R)-2-[3-(Benzo[b]thiophen-2-ylmethyl)-4-methoxynaphthalen-1-yl]-6-hydroxymethyl-tetrahydropyran-3,4,5-triol
Under a nitrogen atmosphere, dimethylsulfide (1.6 ml) and a boron trifluoride-diethyl ether complex (0.79 ml, 6.23 mmol) were added to a solution of (3R,4R,5S,6R)-2-[3-(benzo[b]thiophen-2-ylmethyl)-4-methoxynaphthalen-1-yl]-3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydropyran (515 mg, 0.62 mmol) in methylene chloride (10 ml) under cooling with ice. The reaction mixture was stirred at room temperature for three days, then water (10 ml) was added under cooling with ice and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried with sodium sulfate, and thereafter the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=methylene chloride:methanol (20:1)] to obtain the title compound (82 mg, 28%).

reactant | dimethylsulfide | 1.6 ml | CSC | C2H6S
reactant | (3R,4R,5S,6R)-2-[3-(benzo[b]thiophen-2-ylmethyl)-4-methoxynaphthalen-1-yl]-3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydropyran | 0.62 mmol, 515 mg | S1C2=C(C=C1CC=1C=C(C3=CC=CC=C3C1OC)C1O[C@@H]([C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C=CC=C2 | C54H50O6S
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-2-[3-(Benzo[b]thiophen-2-ylmethyl)-4-methoxynaphthalen-1-yl]-6-hydroxymethyl-tetrahydropyran-3,4,5-triol | 82 mg, 28% | S1C2=C(C=C1CC=1C=C(C3=CC=CC=C3C1OC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)C=CC=C2 | C26H26O6S
